US05100897
N-(2'-cyanobiphen-4-yl)methylvaleramidine
The title compound is prepared by stirring one equivalent of methyl valerimidate hydrochloride, one equivalent of 4-aminomethyl-2'-cyanobiphenyl, and one equivalent of sodium methoxide in methanol. The reaction mixture may then be stripped of solvent and the amidine and residual sodium chloride is used directly in the next reaction.

reactant | methyl valerimidate hydrochloride | one equivalent | Cl.C(CCCC)(OC)=N
reactant | 4-aminomethyl-2'-cyanobiphenyl | one equivalent | NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H12N2
reactant | sodium methoxide | one equivalent | C[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | CO | CH4O
product | N-(2'-cyanobiphen-4-yl)methylvaleramidine | C(#N)C1=C(C2=CC=C(C=C2)CNC(CCCC)=N)C=CC=C1 | C19H21N3
